US04256481
Preparation of N-dichloroacetyl-1-thia-4-azaspiro[4,5]decane (compound 7)
From a boiling mixture of 9.8 g. (0.1 moles) of cyclohexanone and 7.7 g. (0.1 moles) of 2-mercaptoethylamine in 100 ml. of benzene the water formed is continuously distilled off. Boiling is continued until 1.8 ml. of water are separated. The reaction mixture is then cooled and 11 g. of a 40% aqueous sodium hydroxide solution are added followed by dropwise addition of 14.7 g. (0.1 moles) of dichloroacetyl chloride, with external salt/ice cooling. Mixture is stirred for a further two hours at room temperature and washed with aqueous hydrochloric acid solution and subsequently with water. From the neutral mixture obtained benzene is distilled off in vacuo to give 17.2 g. (0.064 moles) of a white powder. Recrystallization from absolute ethanol yields a white crystalline product melting at 149° to 151° C. The structure of the named compound can be verified by IR spectrum analysis.

reactant | cyclohexanone | 0.1 moles | C1(CCCCC1)=O | C6H10O
reactant | 2-mercaptoethylamine | 0.1 moles | SCCN | C2H7NS
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | dichloroacetyl chloride | 0.1 moles | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | water | O | H2O
product | N-dichloroacetyl-1-thia-4-azaspiro[4,5]decane | ClC(C(=O)N1CCSC12CCCCC2)Cl | C10H15Cl2NOS
